US06951879B2
80 mg (0.25 mmol) {3-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl}-dimethyl-amine in 2 ml EtOH were hydrogenated in the presence of 20 mg PtO2. H2O , purification by flash silica gel column (CH2Cl2/MeOH 9:1) yielded 43 mg (53%) {3-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-propyl}-dimethyl-amine as a colorless oil, MS: 331 (MH+, 1Cl).

reactant | {3-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl}-dimethyl-amine | 0.25 mmol, 80 mg | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCN(C)C | C18H15ClN2S
solvent | EtOH | 2 ml | CCO | C2H6O
catalyst | PtO2 | 20 mg | O=[Pt]=O
product | {3-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-propyl}-dimethyl-amine | 43 mg, 53% | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)CCCN(C)C | C18H19ClN2S
